US08067362B2
Step 5: Synthesis of 15-{(3,5-Bis-tert-butoxycarbonylmethoxybenzyl)-[2-(2,5-dioxo-pyrrolidin-1-yloxycarbonyl)ethyl]carbamoyl}pentadecanoic acid 4-methoxy-benzyl ester
15-[(3,5-Bis-tert-butoxycarbonylmethoxybenzyl)-(2-carboxyethyl)carbamoyl]pentadecanoic acid 4-methoxybenzyl ester (190 mg, 0.23 mmol) was dissolved in THF (5 mL). The mixture was cooled with an ice bath. Diisopropylethylamin (0.047 mL, 0.28 mmol) and O—(N-succinimidyl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (83 mg, 0.28 mmol) was added. The mixture was stirred under nitrogen at 0° C. After 30 minutes the ice cooling was removed and the mixture was stirred for an additional 3 hours. Solvent removed in vacuo. The crude product was dissolved in ethyl acetate (50 mL), washed with aqueous phosphate buffer (pH=5.5) (3×25 mL). The organic phase was dried (Na2SO4), solvent removed in vacuo to yield the title compound (163 mg) which was used in subsequent step.

reactant | 15-[(3,5-Bis-tert-butoxycarbonylmethoxybenzyl)-(2-carboxyethyl)carbamoyl]pentadecanoic acid 4-methoxybenzyl ester | 0.23 mmol, 190 mg | COC1=CC=C(COC(CCCCCCCCCCCCCCC(N(CCC(=O)O)CC2=CC(=CC(=C2)OCC(=O)OC(C)(C)C)OCC(=O)OC(C)(C)C)=O)=O)C=C1 | C46H69NO12
reactant | Diisopropylethylamin | 0.28 mmol, 0.047 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O—(N-succinimidyl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.28 mmol, 83 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 15-{(3,5-Bis-tert-butoxycarbonylmethoxybenzyl)-[2-(2,5-dioxo-pyrrolidin-1-yloxycarbonyl)ethyl]carbamoyl}pentadecanoic acid 4-methoxy-benzyl ester | 163 mg | COC1=CC=C(COC(CCCCCCCCCCCCCCC(N(CCC(=O)ON2C(CCC2=O)=O)CC2=CC(=CC(=C2)OCC(=O)OC(C)(C)C)OCC(=O)OC(C)(C)C)=O)=O)C=C1 | C50H72N2O14
